US09254251B2
Preparation of 3-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-4-methoxybenzamide
0.02 g of the target compound is obtained as solid of a light color in substantially the same manner as in (2) of Example 1, except for using 3-adamantan-1-yl-4-methoxybenzoic acid instead of 5-adamantan-1-yl-2,4-dihydroxybenzoic acid and using 3,4-dihydroxybenzylamine instead of dopamine.

reactant | 3-adamantan-1-yl-4-methoxybenzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OC | C18H22O3
reactant | 3,4-dihydroxybenzylamine | OC=1C=C(CN)C=CC1O | C7H9NO2
product | 3-adamantan-1-yl-N-(3,4-dihydroxybenzyl)-4-methoxybenzamide | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NCC3=CC(=C(C=C3)O)O)C=CC2OC | C25H29NO4
